US05885984
(±)-trans-[2-(4-morpholinyl)cyclohexyl](4-nitrophenyl)acetate monohydrochloride (Compound #12)
4-Nitrophenylacetyl chloride, prepared according to the method described in Example 8 using 4-nitrophenylacetic acid (5.4 g, 29.8 mmol), is dissolved in chloroform (15 mL). This solution is refluxed for 9 hours with a solution of (±)-trans-[2-(4-morpholinyl)]cyclohexanol (5.25 g, 28.3 mmol) in chloroform (15 mL) under nitrogen. The solvent is removed in vacuo, and the residue is partitioned between 1M hydrochloric acid (60 mL) and ether (50 mL). The ether layer is separated and the aqueous layer is washed with more ether (2×50 mL), and then basified by the addition of 50% sodium hydroxide solution. This is then extracted with ether (5×60 mL), and the combined ether extracts are washed repeatedly with water to remove any unreacted aminoalcohol. The ether containing the product is then dried over sodium sulfate, and the solvent is removed to leave the crude free ester. The residue is dissolved in ether (20 mL) and treated with HCl in ether to precipitate the salt. It is washed with ether and recrystallised from hot methanol to yield the title compound.

reactant | 4-Nitrophenylacetyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)Cl | C8H6ClNO3
reactant | 4-nitrophenylacetic acid | 29.8 mmol, 5.4 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | HCl | Cl | ClH
reactant | ether | 20 mL | CCOCC | C4H10O
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | (±)-trans-[2-(4-morpholinyl)cyclohexyl](4-nitrophenyl)acetate monohydrochloride | Cl.N1(CCOCC1)[C@H]1[C@@H](CCCC1)C(C(=O)O)C1=CC=C(C=C1)[N+](=O)[O-] | InChI=1S/C18H24N2O5.ClH/c21-18(22)17(13-5-7-14(8-6-13)20(23)24)15-3-1-2-4-16(15)19-9-11-25-12-10-19;/h5-8,15-17H,1-4,9-12H2,(H,21,22);1H/t15-,16-,17?;/m1./s1
